US08377924B2
2-Chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine (90 mg, 0.31 mmol) was treated with 3-cyclopropyl-5-(1-methyl-1H-tetrazol-5-yl)benzenamine (80 mg, 0.37 mmol) and p-toluenesulfonic acid monohydrate (48 mg, 0.25 mmol) in isopropanol (5 mL) and heated at reflux, in a loosely capped vial, overnight. The solvent evaporated, over the course of the reaction. 2-Chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine remained in the reaction mixture. An additional equivalent of 3-cyclopropyl-5-(1-methyl-1H-tetrazol-5-yl)benzenamine was added, along with more isopropanol. The reaction was allowed to heat at reflux for an additional 8 hours. This process was repeated until the 2-chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine was consumed, 4 days later. The resulting residue was purified by column chromatography, on silica gel, eluting with methanol:methylene chloride (1:99) followed by 2M ammonia in methanol:methylene chloride (2:98), to yield N2-(3-cyclopropyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl)-5-fluoro-N4-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidine-2,4-diamine (60 mg, 42% yield) as an off-white solid.

reactant | 2-Chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine | 0.31 mmol, 90 mg | ClC1=NC=C(C(=N1)NC1CC(NC(C1)(C)C)(C)C)F | C13H20ClFN4
reactant | 3-cyclopropyl-5-(1-methyl-1H-tetrazol-5-yl)benzenamine | 0.37 mmol, 80 mg | C1(CC1)C=1C=C(C=C(C1)C1=NN=NN1C)N | C11H13N5
reactant | p-toluenesulfonic acid monohydrate | 0.25 mmol, 48 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
product | N2-(3-cyclopropyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl)-5-fluoro-N4-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidine-2,4-diamine | 60 mg, 42% yield | C1(CC1)C=1C=C(C=C(C1)C1=NN=NN1C)NC1=NC=C(C(=N1)NC1CC(NC(C1)(C)C)(C)C)F | C24H32FN9
